US09315521B2
To methyl 2-chloro-6-[(diethylamino)methyl]benzoate (3.97 g, 15.5 mmol) in anhydrous THF (100 mL) was added a solution of diisobutylaluminium hydride (1 M in toluene, 35 mL, 35 mmol). The reaction mixture was stirred at room temperature for 90 minutes. A Rochelle's salt solution (200 mL) and dichloromethane (200 mL) were added. The mixture was stirred at room temperature for 2 hours. The organic layer was recovered, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording {2-chloro-6-[(diethylamino)methyl]phenyl}methanol (3.0 mg, 85% yield), which was used without further purification.

reactant | methyl 2-chloro-6-[(diethylamino)methyl]benzoate | 15.5 mmol, 3.97 g | ClC1=C(C(=O)OC)C(=CC=C1)CN(CC)CC | C13H18ClNO2
reactant | diisobutylaluminium hydride | 35 mmol, 1 M, 35 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle's salt | 200 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | {2-chloro-6-[(diethylamino)methyl]phenyl}methanol | 3.0 mg, 85% yield | ClC1=C(C(=CC=C1)CN(CC)CC)CO | C12H18ClNO
